US08859574B2
A mixture of 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine (120 mg, 0.49 mmol) and 2,5-dimethyl-4-(piperidin-2-yl)aniline (100 mg, 0.49 mmol) in 2-propanol (10 mL) was treated with conc. aqueous HCl (7 drops). The mixture was sealed and heated in a microwave at 130° C. for 45 min. The mixture was concentrated to afford 5-Chloro-N2-(2,5-dimethyl-4-(piperidin-2-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine; ESMS m/z 412.1 (M+H+). The crude product was used directly for the next step without further purification.

reactant | 2,5-dichloro-N-(5-methyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.49 mmol, 120 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl | C8H7Cl2N5
reactant | 2,5-dimethyl-4-(piperidin-2-yl)aniline | 0.49 mmol, 100 mg | CC1=C(N)C=C(C(=C1)C1NCCCC1)C | C13H20N2
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
catalyst | HCl | 7 drops | Cl | ClH
product | 5-Chloro-N2-(2,5-dimethyl-4-(piperidin-2-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1NCCCC1)C)NC1=NNC(=C1)C | C21H26ClN7
